US04377695
7-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-enanthic acid
The product is produced as described in example 22 from 16 g. of 7-(2-oxo-3-phenyl-benzimidazolin-1-yl)-enanthic acid ethyl ester and 2.1 g. of NaOH.

reactant | 7-(2-oxo-3-phenyl-benzimidazolin-1-yl)-enanthic acid ethyl ester | C(C)OC(CCCCCCN1C(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O)=O | C22H26N2O3
reactant | NaOH | [OH-].[Na+]
product | 7-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-enanthic acid | O=C1N(C2=C(N1CCCCCCC(=O)O)C=CC=C2)C2=CC=CC=C2 | C20H22N2O3
